US05118710
Methyl α-(2-naphthylthiomethylphenyl)-β-methoxyacrylate (compound 2, Table 1)
8 g of methyl α-(2-bromomethylphenyl)-β-methoxyacrylate, 4.5 g of 2-thionaphthol, 4.4 g of potassium carbonate and 100 mg of potassium iodide are refluxed for 20 hours in 200 ml of acetone. 200 ml of water is then added and extraction is carried out three times with methylene chloride. The organic phases are dried over Na2SO4 and evaporated down. The oil which remains is chromatographed on silica gel using a mixture of n-hexane and ethyl acetate. There is obtained 8.19 g of slightly yellow crystals of melting point 52°-58° C.

reactant | methyl α-(2-bromomethylphenyl)-β-methoxyacrylate | 8 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=COC | C12H13BrO3
reactant | 2-thionaphthol | 4.5 g | C1=CC=C2C=C(C=CC2=C1)S | C10H8S
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 100 mg | [I-].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 200 ml | O | H2O
product | Methyl α-(2-naphthylthiomethylphenyl)-β-methoxyacrylate | C1=C(C=CC2=CC=CC=C12)SCC1=C(C=CC=C1)C(C(=O)OC)=COC | C22H20O3S
